* Generated by electronics_design from a KiCad schematic
.include "CD40106B.lib"
XU1 cc out 0 vdd CD40106B
C1 cc 0 100n
R1 out cc 10k
V1 vdd 0 5
.options noinit
.tran 1
.backanno
.end
